US08859591B2
To a solution of (+/−)-cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanamine (80.0 mg, 0.237 mmol) in N,N-dimethylformamide (3 mL) was added methyl 6-fluoronicotinate (55.2 mg, 0.356 mmol) and potassium carbonate (98.4 mg, 0.712 mmol). The reaction was heated to 110° C. and stirred overnight. The reaction was cooled to room temperature, diluted with water, and extracted with ethyl acetate (3×5 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave (+/−)-methyl 6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinate (20 mg, 15%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.63 (s, 1H), 8.06 (s, 1H), 7.79-7.82 (m, 2H), 7.43 (s, 1H), 7.33-7.36 (m, 1H), 7.25 (d, J=8.4 Hz, 1H), 6.03 (d, J=8.8 Hz, 1H), 5.39 (d, J=6.8 Hz, 1H), 4.74 (m, 1H), 3.75 (s, 3H), 2.49 (s, 3H), 1.85-1.88 (m, 1H), 1.58-1.72 (m, 5H), 1.05-1.19 (m, 5H).

reactant | (+/−)-cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanamine | 0.237 mmol, 80.0 mg | C1(CCCCC1)C(N)C1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C18H22F3N3
reactant | methyl 6-fluoronicotinate | 0.356 mmol, 55.2 mg | FC1=NC=C(C(=O)OC)C=C1 | C7H6FNO2
reactant | potassium carbonate | 0.712 mmol, 98.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (+/−)-methyl 6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinate | 20 mg, 15% | C1(CCCCC1)N(C1=NC=C(C(=O)OC)C=C1)CC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C25H27F3N4O2
